US07005440B1
Triphenyl-(quinolin-2-yl-methyl)-phosphonium chloride
To a solution of 2-chloromethyl-quinoline (2.9 g, 20 mmol) in acetonitrile (32 mL) is added triphenylphosphine (4.49 g, 17 mmol). The resulting mixture is warmed to 60° C. and stirred at this temperature for 15 h. This mixture is cooled, diluted with ether, then filtered. The solid is washed with ether, then dried under high vacuum to give the title compound as a solid. 1H NMR (300 MHz, CDCl3) δ 8.20 (d, 1H), 8.06 (d, 1H), 7.95 (m, 6H), 7.42–7.8 (m, 13H), 6.10 (d, 2H).

reactant | 2-chloromethyl-quinoline | 20 mmol, 2.9 g | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | triphenylphosphine | 17 mmol, 4.49 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 32 mL | C(C)#N | C2H3N
solvent | ether | CCOCC | C4H10O
product | Triphenyl-(quinolin-2-yl-methyl)-phosphonium chloride | [Cl-].C1(=CC=CC=C1)[P+](CC1=NC2=CC=CC=C2C=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C28H23NP.ClH/c1-4-13-25(14-5-1)30(26-15-6-2-7-16-26,27-17-8-3-9-18-27)22-24-21-20-23-12-10-11-19-28(23)29-24;/h1-21H,22H2;1H/q+1;/p-1
